US09358222B2
3-(4-Chlorophenyl)-3-(1-hydroxymethylcyclopropylmethoxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (NU8354)
The named compound was synthesised from 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one (400 mg, 1.01 mmol, 1 equiv.) and cyclopropane dimethanol (516 mg, 5.05 mmol, 5 equiv.) using General Procedure A and obtained as an off-white solid (305 mg, 63%). 1H NMR (300 MHz, CDCl3): 8.01-7.98 (m, 2H, O2N—C—CH), 7.92-7.89 (m, 1H, C(O)═C═CH), 7.55-7.52 (m, 2H, Ar—H), 7.32-7.29 (m, 2H, Ar—H), 7.19-7.12 (m, 5 H, Ar—H), 4.49 (s, 2H, N—CH2), 3.51-3.43 (m, 2H, HOCH2), 2.81 (s, 2H, OCH2), 0.43-0.40 (m, 2H, CH2), 0.22-0.12 (m, 2H, CH2). 13C NMR (75 MHz, CDCl3): 168.54, 145.52, 144.95, 137.47, 135.29, 133.45, 131.87, 130.50, 130.21, 128.98, 128.30, 124.16, 123.60, 123.48, 94.96, 67.84, 42.75, 22.68, 8.94, 8.90 Anal.: calc. for C26H23ClN2O5: C, 65.20; H, 4.84; N, 5.85, Found: C, 64.83; H, 4.92; N, 5.63.

reactant | 3-(4-Chlorophenyl)-3-hydroxy-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 1.01 mmol, 400 mg, 1 equiv. | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])O | C21H15ClN2O4
reactant | cyclopropane dimethanol | 5.05 mmol, 516 mg, 5 equiv. | C1(CC1)(CO)CO | C5H10O2
product | 3-(4-Chlorophenyl)-3-(1-hydroxymethylcyclopropylmethoxy)-2-(4-nitrobenzyl)-2,3-dihydroisoindol-1-one | 305 mg, 63% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-])OCC1(CC1)CO | C26H23ClN2O5
